US05227383
Hydrogen sulfide was bubbled through a solution containing 4-azidosampangine (160 mg, 0.58 mmol) and piperidine (2 drops) in MeOH (20 mL) that was precooled to 10° C. After 30 min, the temperature of the reaction was allowed to rise to ambient temperature, and after an additional 30 min the reaction was stopped. The solvent was evaporated and the residual solids chromatographed over silica using CHCl3 /MeOH (9:1) as eluant to give 4-aminosampangine (136 mg, 95%). The chromatography of 4-aminosampangine (23) is easily monitored through its fluorescent characteristics. An analytical sample was obtained by crystallization from DMSO: mp >325° C.; UV (MeOH) 207 (log ε 4.34), 252 (log ε 4.16), 269 (log ε 4.15), 348 (log ε 3.56), 461 (log ε 4.11); IR (KBr) 3300 (br) 1725, 1625, 1585, 1560, 1505, 1460, 1385, 1335, 1300, 1125, 1070, 725 cm-1 ; 1H NMR (DMSO-d6) δ 7.72 (ddd, 1H, J=7.5, 7.5, 1.3 Hz), 7.83 (ddd, 1H, J=7.5, 7.5, 1.3 Hz), 7.95 (br s, 2H), 8.21 (d, 1H, J=5.9 Hz), 8.26 (dd, 1H, J=7.5, 1.3 Hz), 8.38 (s, 1H), 8.75 (dd, 1H, J=7.5, 1.3 Hz), 8.81 (d, 1H, J=5.9 Hz); 13C NMR (DMSO-d6) 115.7 (1), 119.8 (0), 124.1 (0), 124.7 (1), 127.0 (1), 130.9 (1), 132.0 (1), 132.8 (0), 132.9 (0), 133.1 (1), 134.7 (0), 144.3 (1), 145.1 (0), 148.5 (0), 178.4 (0) ppm; Anal. calcd for C15H9N3O.H2O: C 67.92, H 4.18, N 15.83; found C 68.30, H 3.80, N 15.75.

reactant | 4-azidosampangine | 0.58 mmol, 160 mg | C1=CC=C2C(=C1)C3=NC=CC4=C3C(=NC=C4N=[N+]=[N-])C2=O | C15H7N5O
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | MeOH | 20 mL | CO | CH4O
product | 4-aminosampangine | 136 mg, 95% | C1=CC=C2C(=C1)C3=NC=CC4=C3C(=NC=C4N)C2=O | C15H9N3O
